US06770665B2
2-Fluoro-4-trifluoromethoxybenzeneboronic Acid
To a solution of n-butyllithium (2.5 M solution in hexanes, 14.1 mL) in THF (30 mL) at −98° C. was added a solution of 4-bromo-3-fluorotrifluoromethoxy-benzene in THF (3 mL). After stirring for 10 min. at −98° C., triisopropyl borate (4.88 mL, 3.98 g, 21 mmol) was added at a rate needed to keep the temperature below −97° C. The reaction mixture was allowed to warm to −30° C. over 30 minutes, re-cooled to −78° C. and stirred at this temperature for 30 min. Concentrated hydrochloric acid (2 mL) was added and the reaction mixture was concentrated under reduced pressure. Dilute hydrochloric acid (0.2 N, 15 mL) was added and the mixture was extracted with ether (3×20 mL). The combined ethereal layers were extracted with dilute sodium hydroxide (0.02 N, 3×30 mL). The combined aqueous extracts were cooled to 0° C., acidified to pH 3.5 using concentrated hydrochloric acid and extracted with ether (3×30 mL). The combined ethereal layers were then washed with water (15 mL) and brine (15 mL), dried over magnesium sulphate and concentrated under reduced pressure to leave 2.3 g of yellow solid. Recrystallisation from hexane afforded pink needles (1.25 g, 41%): mp 89-93° C.; 1H NMR (CDCl3) δ 7.89 (t, 1H), 7.07 (d, 1H), 6.94 (d, 1H), 5.11 (d, 2H); EI/MS 223 m/e (M−1).

reactant | n-butyllithium | 2.5 M, 14.1 mL | C(CCC)[Li]
reactant | 4-bromo-3-fluorotrifluoromethoxy-benzene | BrC1=C(C=C(C=C1)OC(F)(F)F)F | C7H3BrF4O
reactant | triisopropyl borate | 21 mmol, 4.88 mL, 3.98 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-trifluoromethoxybenzeneboronic Acid | 2.3 g | FC1=C(C=CC(=C1)OC(F)(F)F)B(O)O | C7H5BF4O3
